US05939439
4-[5-(5-Chloro-2-oxo-2H-[1,2']bipyridinyl-5'-ylmethyl)-imidazol-1-ylmethyl]-2-(2-dimethylamino-ethoxy)-benzonitrile
2-(2-Amino-ethoxy)-4-[5-(5-chloro-2-oxo-2H-[1,2']bipyridinyl-5'-ylmethyl)-imidazol-1-ylmethyl]-benzonitrile (L-824,459, 43 mg, 0.09 mmol) was dissolved in THF (1 mL) and CH2O (37% wt. in H2O, 14 μl, 0.18 mmol) was added. The solution was treated with NaCNBH3 (11.7 mg, 0.18 mmol) and the reaction mixture stirred at room temperature for 2 hours. 10% aqueous NaOH was added to the mixture and extracted with CH2Cl2. The water layer was extracted with CH2Cl2 (2×10 mL) and the combined organic layers were dried (MgSO4), filtered and concentrated. Flash chromatography [8% MeOH(NH4OH5%)/CH2Cl2 ] yielded the final product.

reactant | 2-(2-Amino-ethoxy)-4-[5-(5-chloro-2-oxo-2H-[1,2']bipyridinyl-5'-ylmethyl)-imidazol-1-ylmethyl]-benzonitrile | 0.09 mmol, 43 mg | NCCOC1=C(C#N)C=CC(=C1)CN1C=NC=C1CC=1C=CC(=NC1)N1C(C=CC(=C1)Cl)=O | C24H21ClN6O2
reactant | CH2O | 0.18 mmol, 14 μl | C=O | CH2O
reactant | NaCNBH3 | 0.18 mmol, 11.7 mg | [BH3-]C#N.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-[5-(5-Chloro-2-oxo-2H-[1,2']bipyridinyl-5'-ylmethyl)-imidazol-1-ylmethyl]-2-(2-dimethylamino-ethoxy)-benzonitrile | ClC=1C=CC(N(C1)C1=NC=C(C=C1)CC1=CN=CN1CC1=CC(=C(C#N)C=C1)OCCN(C)C)=O | C26H25ClN6O2
